US08008307B2
Step a: 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-6-(1-naphthylmethoxy)pyrimidine
To a solution of 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine (0.200 g, 0.423 mmol) and 1-naphthalenemethanol (0.140 g, 0.888 mmol) in DMF (1 mL) was added sodium hydride (0.0355 g, 0.888 mmol) and stirred for 3 h. The mixture was diluted with H2O and extracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography (0 to 20% EtOAc/hexanes) to afford the title compound (0.139 g, 55%).

reactant | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine | 0.423 mmol, 0.200 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC(=C1)Cl | C22H41ClN2O3Si2
reactant | 1-naphthalenemethanol | 0.888 mmol, 0.140 g | C1(=CC=CC2=CC=CC=C12)CO | C11H10O
reactant | sodium hydride | 0.888 mmol, 0.0355 g | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-6-(1-naphthylmethoxy)pyrimidine | 0.139 g, 55% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC(=C1)OCC1=CC=CC2=CC=CC=C12 | C33H50N2O4Si2
